Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
L Flank Pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ is a ___ male with a h/o sarcoidosis, appendectomy 
cholecystectomy, Meckel's diverticulum resection presents for 
evaluation of diffuse abdominal pain found to have L renal 
infarct

Per patient he was in his normal state of health until 2 days 
pta. At that time he was climbing into his truck and had R abd 
pain and l flank pain. This improved but worsened shortly 
thereafter on arrival home. He then presented to ___ 
and CT a/p with con demonstrate L renal infarcts. 

Prior to this he notes being on Prednisone burst (finished 2 
days ago) for poison oak rash. He also notes his PCP was 
evaluating him for microscopic hematuria discovered 3 weeks 
prior. ~10 days prior he had a normal Renal US. 

He denies cp, palpitations, rashes, ulcers, sob, ___ edema, 
visual changes, weakness, blood in stool, petechiae, pleurisy.

ED Course: 
Vitals: T 97.1, HR 75, BP 129/74, RR 16, 97% on RA    
Exam: L flank pain
Labs: WBC 11.2, Hgb 16.2, INR 1.2, Cr 1.1, Lactate 1.1, UA 
ketones and RBCs
Imaging: CT with L renal segmental infractions and nonobstucting 
kidney stones
Consults: none
Interventions: Toradol x2, Zofran, Hep bolus and ggt, Tylenol 
1g, UCx

A 10 pt review of systems was obtained and is negative except 
per
HPI. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.

 
Past Medical History:
-Sarcoidosis--skin manifestations only
-Meckel's diverticulum resection and appendectomy ___ years 
prior
-cholecystectomy
 
Social History:
___
Family History:
Per prior notes: Reviewed and found to be not relevant to this 
hospitalization/illness
 
Physical Exam:
ADMISSION EXAM:
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric, EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi, good air movement
GI: Soft, non-tender, mild L sided flank tenderness
GU: No foley
EXT: Warm, well perfused, trace bilat ___, no calf tenderness
NEURO: CNII-XII intact, ___ strength in upper and lower ext, nl
gait
SKIN: no rashes or lesions

DISCHARGE EXAM:
VS: 24 HR Data (last updated ___ @ 1132)
    Temp: 98.6 (Tm 98.7), BP: 138/80 (100-138/67-82), HR: 79 
(66-82), RR: 18, O2 sat: 95% (95-97), O2 delivery: Ra  
Gen: NAD
HEENT: NC/AT
Cards: RR, no m/r/g appreciated
Chest: CTAB, normal WOB, no CVAT noted today
Abd: obese, S, ND, NT, BS+
Neuro: awake, alert, conversant with clear speech, oriented x4
Psych: calm, cooperative, pleasant

 
Pertinent Results:
ADMISSION LABS:
___ 04:30PM BLOOD WBC-11.2* RBC-5.45 Hgb-16.2 Hct-49.0 
MCV-90 MCH-29.7 MCHC-33.1 RDW-13.0 RDWSD-42.4 Plt ___
___ 04:30PM BLOOD Neuts-62.8 ___ Monos-9.3 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-7.00* AbsLymp-2.93 AbsMono-1.04* 
AbsEos-0.07 AbsBaso-0.04
___ 10:15PM BLOOD ___ PTT-32.6 ___
___ 04:30PM BLOOD Glucose-98 UreaN-20 Creat-1.1 Na-136 
K-5.4 Cl-105 HCO3-15* AnGap-16

DISCHARGE LABS:
___ 05:35AM BLOOD WBC-7.0 RBC-4.64 Hgb-13.7 Hct-40.3 MCV-87 
MCH-29.5 MCHC-34.0 RDW-12.6 RDWSD-39.9 Plt ___
___ 09:00AM BLOOD ___ PTT-40.6* ___
___ 05:35AM BLOOD Glucose-110* UreaN-16 Creat-1.1 Na-142 
K-4.6 Cl-102 HCO3-23 AnGap-17

OTHER PERTINENT LABS:
___ 05:35AM BLOOD ALT-31 AST-35 AlkPhos-92 TotBili-0.7
___ 04:55PM BLOOD LD(LDH)-363*
___ 05:35AM BLOOD cTropnT-<0.01
___ 05:35AM BLOOD Hapto-298*
___ 08:43AM BLOOD b2micro-2.0
___ 04:39PM BLOOD Lactate-1.1

___ 12:27PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND

___ 07:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:00PM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 07:00PM URINE RBC-6* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 02:59AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-POS* mthdone-NEG

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

BLOOD CULTURE x 2 PENDING with NGTD

CT A/P OSH ___ READ - IMPRESSION: 
1. Findings concerning for left renal segmental infarctions in 
the midpole and upper pole with possible filling defect within 
an accessory left renal artery supplying the left renal upper 
pole.  If needed a CTA may be performed to further assess. 
2. Incidental note of nonobstructing kidney stones. 
3. Emphysema at the lung bases. 

CXR - IMPRESSION:  
No previous images.  The cardiac silhouette is within normal 
limits and there is no vascular congestion or acute focal 
pneumonia.  Hyperexpansion of the lungs could reflect underlying 
chronic pulmonary disease as apparently was seen on CT.  Mild 
atelectatic changes are seen at the left base. 

TTE - CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
and global left ventricular systolic function. No thrombus or 
mass is seen in the left ventricle. Overall left ventricular 
systolic function is hyperdynamic. Quantitative 3D volumetric 
left ventricular ejection fraction is 75 % (normal 54-73%). Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. The aortic valve leaflets (3) 
appear structurally normal. No masses or vegetations are seen on 
the aortic valve. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral valve. There is trivial 
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally normal. No 
mass/vegetation are seen on the tricuspid valve. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. No definite structural cardiac source of embolism 
identified.

CTA A/P - IMPRESSION: 
1. Re-demonstrated is a segmental left renal infarct involving 
the left upper pole due to a thrombus within the superior left 
renal artery. 
2. As before, there are bilateral nonobstructing renal calculi 
measuring 4 mm. 
 
Brief Hospital Course:
___ male with a h/o sarcoidosis, OSA on CPAP, p/w diffuse 
abdominal pain found to have L renal infarct.

# Left renal infarct: Unclear etiology. He was monitored on 
telemetry with no evidence of atrial fibrillation. TTE 
unremarkable. b2-microglobulin negative, anti-cardiolipin 
PENDING. CTA confirmed L renal infarct ___ thrombus in the 
superior L renal artery. He was treated with heparin gtt and 
then transitioned to Lovenox. He was also started on coumadin 5 
mg daily on ___. He will continue Lovenox bridge until INR 
therapeutic. Next INR check on ___, with results to be faxed to 
___'s office. He will f/u in PCP's office on ___. PCP aware of 
new Rx for coumadin. Will need hematology referral for further 
hypercoagulability w/u.

# Emphysema in lung bases & hyperexpansion of lungs on CXR: 
Would strongly recommend he gets testing for alpha-1-AT 
deficiency as outpatient given his family history (early liver 
disease) and imaging evidence of emphysema despite quitting 
smoking ___ years ago.

# Nonobstructing nephrolithiasis (chronic since at least ___: 
Seen on imaging here.

# Sarcoidosis: No acute issues.

# OSA: On CPAP.

TRANSITIONAL ISSUES:
- Pt d/c'ed on Lovenox bridge and coumadin. Next INR check on 
___. F/u at ___'s office scheduled for ___.
- Hematology referral for hypercoagulable w/u.
- Pulmonology referral for eval of likely emphysema.
- Consider alpha-1-antitrypsin testing.
- Pending labs that need to be followed up: blood culture x 2, 
anticardiolipin antibodies
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine 0.1 mg PO PRN anxiety/terrors 
2. Gemfibrozil 600 mg PO BID 
3. Ranitidine 150 mg PO BID 
4. Dextroamphetamine 5 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 130 mg SC Q12H 
RX *enoxaparin 150 mg/mL 130 mg SC twice a day Disp #*28 Syringe 
Refills:*0 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q12H:PRN Pain - Severe 
Do not take more than prescribed. ___ cause drowsiness. 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every 12 hours as 
needed Disp #*8 Tablet Refills:*0 
3.  Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Cetirizine 10 mg PO DAILY  
5.  CloNIDine 0.1 mg PO PRN anxiety/terrors  
6.  Dextroamphetamine 5 mg PO DAILY  
7.  Gemfibrozil 600 mg PO BID  
8.  Ranitidine 150 mg PO BID  
9.  Tamsulosin 0.4 mg PO QHS  
10.Outpatient Lab Work
Please check INR on ___ and fax to PCP (Dr. ___ - 
fax number ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Renal Artery Thrombus
Renal Infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital with pain in your left side, and 
you were found to have a blood clot in your renal artery causing 
a renal infarct. You were treated with blood thinners (heparin). 
You were also observed on the heart monitor and did not have any 
evidence of atrial fibrillation to explain the blood clot. You 
should follow up with your PCP's office for a heart monitor to 
further evaluate for atrial fibrillation. You are being 
discharged on Coumadin to thin your blood. You are also being 
discharged on Lovenox until your Coumadin levels are in the goal 
range. You will need to have blood work followed closely by your 
PCP to adjust your Coumadin dose and determine when to stop the 
Lovenox. You should also follow up with a hematologist to 
evaluate your for a clotting disorder.

Of note, your radiology studies also showed evidence of 
emphysema. Given your young age and the fact that your brother 
died of liver disease at a young age, it is important to discuss 
with your doctors whether ___ could have a genetic 
predisposition to these diseases. In particular, you should be 
tested for alpha-1-antitrypsin deficiency. You should also 
follow up with a pulmonologist.
 
Followup Instructions:
___